US07741327B2
To a solution of 2-(benzhydrylidene-amino)-3-(1-fluoro-cyclopentyl)-propionic acid ethyl ester (1.36 g, 3.70 mmol) in dichloromethane (10 mL) at 0° C. was added a hydrochloric acid solution (1N, 7.4 mL) and the resulting mixture stirred at room temperature for 17 h. The mixture was separated, the aqueous layer diluted with water (10 mL) and cooled to 0° C. before sodium bicarbonate (1.24 g, 14.8 mmol) was added portionwise. The resulting mixture was extracted with dichloromethane (2×50 mL), the organic phases combined and dried over magnesium sulfate. The mixture was filtered and evaporated which afforded 2-amino-3-(1-fluoro-cyclopentyl)-propionic acid ethyl ester (0.56 g, 75%) as a clear oil: 1H NMR (300 MHz, CDCl3) δ ppm 1.29 (t, J=7.1 Hz, 3H), 1.68 (br. s., 6H), 1.77-1.89 (m, 2H), 1.89-2.15 (m, 3H), 2.15-2.36 (m, 1H), 3.72 (t, J=5.9 Hz, 1H), 4.19 (q, J=7.1 Hz, 2H).

reactant | 2-(benzhydrylidene-amino)-3-(1-fluoro-cyclopentyl)-propionic acid ethyl ester | 3.70 mmol, 1.36 g | C(C)OC(C(CC1(CCCC1)F)N=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C23H26FNO2
reactant | hydrochloric acid | 1N, 7.4 mL | Cl | ClH
reactant | sodium bicarbonate | 14.8 mmol, 1.24 g | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-amino-3-(1-fluoro-cyclopentyl)-propionic acid ethyl ester | 0.56 g, 75% | C(C)OC(C(CC1(CCCC1)F)N)=O | C10H18FNO2
